US06855722B2
b) 3-(5-Hydroxy-indol-1-yl)-3-phenyl-propionic acid ethyl ester
A mixture of 3-(5-benzyloxy-indol-1-yl)-3-phenyl-acrylic acid ethyl ester (1.94 g, 4.89 mmol) and palladium on carbon [10% w/w] (60 mg) in methanol (25 mL) was stirred under hydrogen atmosphere for 24 h. After removal of the catalyst by filtration, the crude product was purified by flash chromatography on silica gel with hexane/ethyl acetate (4:1) to give the title compound in 96% yield. 1H NMR (CDCl3) δ 7.10-7.30 (m, 7H), 6.99 (d, J=2.4 Hz, 1H), 6.69 (dd, J=2.4 and 8.7 Hz, 1H), 6.39 (d, J=3.2 Hz, 1H), 5.99 (t, J=7.6 Hz, 1H), 5.31 (br, 1H), 4.03 (q, J=7.2 Hz, 2H), 3.26 (m, 2H), 1.08 (t, J=7.2 Hz, 3H). 13C NMR (CDCl3) δ 170.4, 149.7, 139.8, 131.5, 129.3, 128.8, 127.9, 126.2, 125.8, 111.6, 110.6, 105.2, 101.4, 61.1, 56.2, 40.4, 13.9. Mass Spectrum (LCMS, ESI) calculated for C19H20NO3 310.1 (M+H); found 310.1.

reactant | 3-(5-benzyloxy-indol-1-yl)-3-phenyl-acrylic acid ethyl ester | 4.89 mmol, 1.94 g | C(C)OC(C=C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)OCC1=CC=CC=C1)=O | C26H23NO3
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
solvent | methanol | 25 mL | CO | CH4O
product | 3-(5-Hydroxy-indol-1-yl)-3-phenyl-propionic acid ethyl ester | 96% yield | C(C)OC(CC(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)O)=O | C19H19NO3
